US08426411B2
A mixture of (1S,3R,4S)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine (0.20 g, 0.47 mmol), EtOH (1.3 mL), DIEA (0.33 mL, 1.88 mmol), and 2-chlorothiazole-5-carbonitrile (0.082 g, 0.56 mmol, Ark Pharm) was heated in a CEM microwave at about 150° C. for about 30 min (250 psi maximum pressure, 5 min maximum ramp, 300 maximum watts). The reaction mixture was cooled to ambient temperature and concd under reduced pressure. The crude oil was dissolved in DCM (10 mL) and washed with water (2×10 mL). The organic layer was dried over anhydrous MgSO4, filtered, and concd under reduced pressure. The crude mixture was purified by silica gel chromatography eluting with a gradient of 0-70% EtOAc in DCM to give 2-((1S,3R,4S)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentylamino)thiazole-5-carbonitrile (0.21 g, 84%): LC/MS (Table 1, Method c) Rt=1.53 min; MS m/z: 533 (M+H)+.

reactant | (1S,3R,4S)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine | 0.47 mmol, 0.20 g | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)N | C21H24N6O2S
reactant | EtOH | 1.3 mL | CCO | C2H6O
reactant | DIEA | 1.88 mmol, 0.33 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chlorothiazole-5-carbonitrile | 0.56 mmol, 0.082 g | ClC=1SC(=CN1)C#N | C4HClN2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-((1S,3R,4S)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentylamino)thiazole-5-carbonitrile | 0.21 g, 84% | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)NC=1SC(=CN1)C#N | C25H24N8O2S2
